US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile (#144)
2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile (I-307) (192 mg, 0.64 mmol) was dissolved in dimethyl sulfoxide (4 ml), and at room temperature, triethylamine (117 μl, 0.84 mmol) and (3S)-3-(dimethylamino)pyrrolidine (106 μl, 0.84 mmol) was added. After stirred under nitrogen atmosphere at 90° C. for 12.5 hours, this was cooled to room temperature. The reaction liquid was fractionated with ethyl acetate and saturated brine. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=93:7, v/v) to obtain the entitled compound (208 mg, 83%) as a pale brown solid.

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile | 0.64 mmol, 192 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2SC=CC2)C)C#N | C16H11FN2OS
reactant | triethylamine | 0.84 mmol, 117 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.84 mmol, 106 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile | 208 mg, 83% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C=2SC=CC2)C)C#N | C22H24N4OS
